* sscb_v1 — demiurge cohort producer, D55 / κ-34
* HONEST: plausible HEXA-SSCB mk1 topology, NOT a measured device model.
.title sscb_v1
Vdc 1 0 600.0
Lbus 1 2 1e-06
Rload 2 3 6.0
SW 3 0 gate 0 SWMOD
* RC snubber across the switch (3 → 0)
Csnub 3 4 1e-07
Rsnub 4 0 5.0
* Gate drive — high until 1 µs trip, falls in 50 ns
Vgate gate 0 PWL(0 15 1.000000e-06 15 1.050000e-06 0 6.000000e-06 0)
.model SWMOD SW (Ron=0.02 Roff=1000000000.0 Vt=7.0 Vh=1.0)
.tran 5.000000e-09 6.000000e-06
.print tran v(3) v(2) i(Vdc) i(Lbus)
.control
run
print v(3) v(2) i(Vdc) i(Lbus)
.endc
.end
